US04642308
The procedure is similar to that described in Example 4, but starting with 2-amino-7-chloro-1,8-naphthyridine (17.9 g), 4-fluorophenol (44.8 g) and potassium hydroxide pellets (13.2 g; 85% purity). After 2 hours' heating at 115° C. and treatment as described above in Example 4, 2-amino-7-(4-fluorophenoxy)-1,8-naphthyridine (15.2 g) is produced, m.p. 210° C.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 17.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 4-fluorophenol | 44.8 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-7-(4-fluorophenoxy)-1,8-naphthyridine | 15.2 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=C(C=C1)F | C14H10FN3O
